US07259157B2
To 5-({[(1-{[(4-methylbenzyl)oxy]carbonyl}piperidin-4-yl)methyl]amino}carbonyl)-1H-pyrazole-3-carboxylic acid (50 mg, 0.13 mmol) was added BH3-THF solution (2.5 mL, 2.5 mmol, 1.0M in THE). The solution was stirred at rt for 1 h, quenched with HCl (1M) and extracted with EtOAc. The organic layer was washed with H2O dried over Na2SO4, filtered and concentrated. The residue was chromatographed on silica gel (gradient elution, EtOAc to 10% MeOH/EtOAc) to give 4-methylbenzyl 4-[({[3-(hydroxymethyl)-1H-pyrazol-5-yl]carbonyl}amino)methyl]piperidine-1-carboxylate.

reactant | 5-({[(1-{[(4-methylbenzyl)oxy]carbonyl}piperidin-4-yl)methyl]amino}carbonyl)-1H-pyrazole-3-carboxylic acid | 0.13 mmol, 50 mg | CC1=CC=C(COC(=O)N2CCC(CC2)CNC(=O)C2=CC(=NN2)C(=O)O)C=C1 | C20H24N4O5
reactant | BH3-THF | B.C1CCOC1
product | 4-methylbenzyl 4-[({[3-(hydroxymethyl)-1H-pyrazol-5-yl]carbonyl}amino)methyl]piperidine-1-carboxylate | OCC1=NNC(=C1)C(=O)NCC1CCN(CC1)C(=O)OCC1=CC=C(C=C1)C | C20H26N4O4
